US06747023B1
2-Carboxy-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-((4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
In tetrahydrofuran (1 ml), 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonyl-1-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (95 mg) was dissolved, followed by the addition of ethanol (2 ml) and 1N sodium hydroxide (3 ml). The resulting mixture was heated under reflux for 30 minutes. To the reaction mixture, 4N hydrochloric acid (2 ml) was added and the precipitate thus obtained was collected by filtration, whereby the title compound (83 mg, 90%) was obtained as a colorless foam.

reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonyl-1-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 95 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1=CC=2CNCCC2S1)C(=O)OCC
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4N, 2 ml | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-Carboxy-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-((4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.C(=O)(O)C1N(CCN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)C1=CC=2CNCCC2S1 | InChI=1S/C23H22ClN3O5S2.ClH/c24-17-3-1-15-10-18(4-2-14(15)9-17)34(31,32)26-7-8-27(19(13-26)23(29)30)22(28)21-11-16-12-25-6-5-20(16)33-21;/h1-4,9-11,19,25H,5-8,12-13H2,(H,29,30);1H
